US04904653
6-Methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-amine dihydrochloride
A mixture of 2-acetamido-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine (10 mg) and 5M hydrochloric acid (2.0 ml) was heated to 90° for 30 minutes. The mixture was basified and extracted with dichloromethane (2×5 ml). The extracts were dried, filtered and evaporated to a yellow oil. This was immediately converted to the title product by dissolving in ethanolic hydrogen chloride and evaporating.

reactant | 2-acetamido-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine | 10 mg | C(C)(=O)NC1=CC2=C(C(CN(CC2)C)C2=CC=CC=C2)S1 | C17H20N2OS
reactant | hydrochloric acid | 5M, 2.0 ml | Cl | ClH
product | 6-Methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-amine dihydrochloride | Cl.Cl.CN1CC(C2=C(CC1)C=C(S2)N)C2=CC=CC=C2 | InChI=1S/C15H18N2S.2ClH/c1-17-8-7-12-9-14(16)18-15(12)13(10-17)11-5-3-2-4-6-11;;/h2-6,9,13H,7-8,10,16H2,1H3;2*1H
